US04017627
350 ml of a 14% strength sodium hypochlorite solution are added dropwise to a suspension of 94 g of 5-acetyl-8-hydroxyquinoline in 1 litre of methanol and 1 litre of water at 10°-20°C, whilst stirring well. After stirring for a further hour, the mixture is acidified with 60 ml of glacial acetic acid and diluted with 1 liter of water, and the product is filtered off. The filter residue is washed with water and recrystallised, whilst still moist, from alcohol. 70 g of almost colourless 5-acetyl-7-chloro-8-hydroxyquinoline are obtained, melting point 163°-166° C.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 5-acetyl-8-hydroxyquinoline | 94 g | C(C)(=O)C1=C2C=CC=NC2=C(C=C1)O | C11H9NO2
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 1 litre | CO | CH4O
solvent | water | 1 litre | O | H2O
solvent | water | 1 liter | O | H2O
product | 5-acetyl-7-chloro-8-hydroxyquinoline | C(C)(=O)C1=C2C=CC=NC2=C(C(=C1)Cl)O | C11H8ClNO2
